US04539319
5,6,7,8-Tetrahydro-1-naphthol (9.85 g, 66mM), methyl iodide (30.6 g, 215mM) and potassium carbonate (15 g, 90.8mM) in acetone (500 ml) were heated under reflux with stirring for 3 days. The mixture was evaporated and the residue was extracted with 2M sodium hydroxide and ether. The organic layer was washed and dried to give 1-methoxy-5,6,7,8-tetrahydronaphthalene as as oil.

reactant | 5,6,7,8-Tetrahydro-1-naphthol | 66mM, 9.85 g | C1(=CC=CC=2CCCCC12)O | C10H12O
reactant | methyl iodide | 215mM, 30.6 g | CI | CH3I
reactant | potassium carbonate | 90.8mM, 15 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 1-methoxy-5,6,7,8-tetrahydronaphthalene | COC1=CC=CC=2CCCCC12 | C11H14O
